US05438048
Preparation of (1-hydroxyethylidene)bisphosphonic acid tetramethyl ester
[Hydroxy(cyclohexyl)methylidene]bisphosphonic acid tetramethyl ester from dimethyl cyclohexanoylphosphonate and dimethylphosphite (31-P NMR 23.13 ppm; CDCl3).

reactant | [Hydroxy(cyclohexyl)methylidene]bisphosphonic acid tetramethyl ester | COP(OC)(=O)C(P(OC)(OC)=O)(C1CCCCC1)O | C11H24O7P2
reactant | dimethyl cyclohexanoylphosphonate | C1(CCCCC1)C(=O)P(OC)(OC)=O | C9H17O4P
reactant | dimethylphosphite | COP(OC)[O-]
product | (1-hydroxyethylidene)bisphosphonic acid tetramethyl ester | COP(OC)(=O)C(C)(O)P(OC)(OC)=O | C6H16O7P2
